US03951640
Preparation of N-(2-Methylthio-1,3,4-thiadiazol-5-yl)-N-methylcarbamoyl chloride
2-Methylthio-5-methylamino-1,3,4-thiadiazole (0.1 mole) and a solution of phosgene (0.11 mole) in benzene (200 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and reflux condenser. The reaction mixture is heated at reflux for a period of about 4 hours. After this time the reaction mixture is stripped of benzene and unreacted phosgene to yield the desired product N-(2-methylthio-1,3,4-thiadiazol-5-yl)-N-methylcarbamoyl chloride.

reactant | 2-Methylthio-5-methylamino-1,3,4-thiadiazole | 0.1 mole | CSC=1SC(=NN1)NC | C4H7N3S2
reactant | phosgene | 0.11 mole | C(=O)(Cl)Cl | CCl2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-(2-methylthio-1,3,4-thiadiazol-5-yl)-N-methylcarbamoyl chloride | CSC=1SC(=NN1)N(C(=O)Cl)C | C5H6ClN3OS2
